US05194532
F. Preparation of Methylcyclopentadienyltitanium Tris(Dimethylamide) (Complex V)
A 250 mL Schlenk flask is charged with titanium tetrakis(dimethylamide), 3.73 g (16.64 mmole), and toluene, 100 mL. Methylcyclopentadiene, 5.33 g (66.54 mmole), is added to the magnetically stirred solution. The mixture is refluxed 1.5 hours. Solvent and volatiles are removed under vacuum leaving a brown residue. The residue is transferred to a microdistillation apparatus and a forerun of titanium tetrakis(dimethylamide) is distilled from the mixture (at 35°-40° C. and 0.025 mm Hg) followed by a red low melting solid (at 104°-108° C. and 0.025 mm Hg) which is determined to be methylcyclopentadienyltitanium tris(dimethylamide) by proton NMR.

reactant | titanium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
reactant | Methylcyclopentadiene | CC1=CC=CC1 | C6H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methylcyclopentadienyltitanium Tris(Dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[Ti+3]C1C=CC=C1 | InChI=1S/C5H5.3C2H6N.CH3.Ti/c1-2-4-5-3-1;3*1-3-2;;/h1-5H;3*1-2H3;1H3;/q;3*-1;;+3
